US04859684
(b-1) A mixture of 6.2 parts of N-[4-(1H-imidazol-1-ylmethyl)-2-nitrophenyl]-3-pyridinemethanamine, 1 part of a solution of thiophene in methanol 4% and 200 parts of methanol was hydrogenated at normal pressure and at 50° C. with 2 parts of platinum-on-charcoal catalyst 5%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated, yielding 5.6 parts (100%) of 4-(1H-imidazol-1-ylmethyl)-N1 -(3-pyridinylmethyl)-1,2-benzenediamine as a residue (int. 80).

reactant | N-[4-(1H-imidazol-1-ylmethyl)-2-nitrophenyl]-3-pyridinemethanamine | N1(C=NC=C1)CC1=CC(=C(C=C1)NCC=1C=NC=CC1)[N+](=O)[O-] | C16H15N5O2
reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | platinum-on-charcoal | [Pt] | Pt
product | 4-(1H-imidazol-1-ylmethyl)-N1 -(3-pyridinylmethyl)-1,2-benzenediamine | 100% | N1(C=NC=C1)CC=1C=C(C(=CC1)NCC=1C=NC=CC1)N | C16H17N5
